US04468399
Following the procedure of Example 1, 2-nitroamino-5-(4-pyridyl)methyl-4-pyrimidone was reacted with 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine to yield 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(4-pyridyl)methyl-4-pyrimidone as a trihydrochloride salt melting at 200°-202° C. after recrystallization from a methanol/ethanol solvent mixture.

reactant | 2-nitroamino-5-(4-pyridyl)methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C10H9N5O3
reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(4-pyridyl)methyl-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C19H24N6OS2
